US07256186B2
(2R,5S)-5-(3-fluoro-phenyl)-pyrrolidine-2-carboxylic acid methyl ester (0.33 g, 1.5 mmol) was dissolved in 1,2-dichloroethane (2 mL) and Et3N (1.0 mL, 7.4 mmol, 5 eq) was added followed by 4-chlorobenzenesulfonyl chloride (0.78 g, 3.7 mmol, 2.5 eq). The mixture was heated at 100° C. for 16 hr. Solvent was removed under vacuum and the residue was dissolved in EtOAc (10 mL), washed with 10% NaHCO3 and brine, dried (Na2SO4) and concentrated under vacuum. Chromatography on silica gel (5–10% EtOAc/hexanes) yielded 0.45 g (75%) of pure (2R,5S)-1-(4-chloro-benzenesulfonyl)-5-(3-fluoro-phenyl)-pyrrolidine-2-carboxylic acid methyl ester as yellowish solid. 1H NMR (CDCl3, 300 MHz) δ 7.67 (2H, d), 7.42 (2H, d), 7.24 (3H, m), 6.98 (1H, m), 4.95 (1H, t), 4.82 (1H, q), 3.94 (3H, s), 2.45–2.25 (3H, m), 2.05 (1H, m).

reactant | (2R,5S)-5-(3-fluoro-phenyl)-pyrrolidine-2-carboxylic acid methyl ester | 1.5 mmol, 0.33 g | COC(=O)[C@@H]1N[C@@H](CC1)C1=CC(=CC=C1)F | C12H14FNO2
reactant | Et3N | 7.4 mmol, 1.0 mL, 5 eq | CCN(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 3.7 mmol, 0.78 g, 2.5 eq | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | (2R,5S)-1-(4-chloro-benzenesulfonyl)-5-(3-fluoro-phenyl)-pyrrolidine-2-carboxylic acid methyl ester | 0.45 g, 75% | COC(=O)[C@@H]1N([C@@H](CC1)C1=CC(=CC=C1)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C18H17ClFNO4S
